US07713969B2
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-1-naphthyl-1H-indol-3-yl)pyrrole-2,5-dione, prepared as in Example 31, was reduced with Mg in methanol as described in Example 2, Procedure C, to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(1-naphthyl)-1H-indol-3-yl)pyrrolidine-2,5-dione. 1H NMR (CD3OD) δ: 1.85-1.95(m, 1H), 1.95-2.05(m, 1H), 2.74-2.88(m, 2H), 3.72-3.83(m, 1H), 3.88-3.98(m, 1H), 4.40(d, J=6.4 Hz, 1H), 4.62(d, J=6.4 Hz, 1H), 6.80(d, J=6.8 Hz, 1H), 6.78(t, J=8.0 Hz, 1H), 7.46(s, 1H), 7.07-7.13(m, 2H), 7.18-7.23(dd, J=8.4 Hz, J=1.6 Hz, 2H), 7.27-7.34(m, 2H), 7.41-7.49(m, 3H), 7.78-7.83(dd, J=8.4 Hz, J=3.2 Hz, 2H), 7.86-7.90(d, J=7.6 Hz, 1H).

reactant | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-1-naphthyl-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=C(C=C23)C2=CC=CC3=CC=CC=C23)=O)=O | C33H23N3O2
solvent | methanol | CO | CH4O
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(1-naphthyl)-1H-indol-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CNC3=CC=C(C=C23)C2=CC=CC3=CC=CC=C23)=O)=O | C33H25N3O2
